US05674886
0.28 Milliliter of acetic anhydride was added to ml of a pyridine solution containing 0.35 g of 4-[N-(4-aminophenyl)-N-(4-bromobenzyl)amino]-4H-1,2,4-triazole at room temperature and the mixture was stirred for about minutes. After reaction, the solvent was removed by distillation under reduced pressure, and a proper amount of an aqueous sodium hydrogen carbonate solution was added to the resulting residue, which was then extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by silica gel chromatography to obtain 0.33 g of 4-[N-(4-acetylaminophenyl)-N-(4-bromobenzyl)amino]-4H-1,2,4-triazole from the chloroform/methanol (50/1) eluate.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[N-(4-aminophenyl)-N-(4-bromobenzyl)amino]-4H-1,2,4-triazole | 0.35 g | NC1=CC=C(C=C1)N(CC1=CC=C(C=C1)Br)N1C=NN=C1 | C15H14BrN5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[N-(4-acetylaminophenyl)-N-(4-bromobenzyl)amino]-4H-1,2,4-triazole | 0.33 g | C(C)(=O)NC1=CC=C(C=C1)N(CC1=CC=C(C=C1)Br)N1C=NN=C1 | C17H16BrN5O
